US04463177
Hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepine-2-one
A solution of 3-(2-bromo-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one (6 g) in chloroform (60 ml) was treated with 48% HBr in acetic acid (1 ml). After 4 hours, NMR indicated completion. Aqueous ammonia was added and the organic solvent removed under reduced pressure to yeild the title compound as a crystalline solid, m.p. 192°-3° (EtOAc).

reactant | 3-(2-bromo-3-oxocyclohex-1-enyl)-hexahydro-1-methylazepin-2-one | 6 g | BrC1=C(CCCC1=O)C1C(N(CCCC1)C)=O | C13H18BrNO2
reactant | HBr | Br | BrH
reactant | ammonia | N | H3N
solvent | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | Hexahydro-3-(3-hydroxyphenyl)-1-methyl-2H-azepine-2-one | OC=1C=C(C=CC1)C1C(N(CCCC1)C)=O | C13H17NO2
